US03989507
Methyl 2-(((methylamino)sulfonyl)amino)-3-pyridine carboxylate
Methyl 2-amino-3-pyridine carboxylate (15.2 grams; 0.1 mole), calcium carbonate (13.0 grams; 0.1 mole) and methylsulfamoyl chloride (13.0 grams; 0.1 mole) were mixed with 200 ml. of acetonitrile and the resulting reaction mixture stirred at ambient temperatures for a period of about 15 hours. Following the reaction period, the reaction mixture was filtered and the solvent removed in vacuo. The semi-solid residue thus obtained was extracted with ethanol. A white crystalline precipitate, obtained by filtering the extract solution, was recrystallized from ethanol and the desired title compound having a melting point of 133°-139° C was obtained.

reactant | Methyl 2-amino-3-pyridine carboxylate | 0.1 mole, 15.2 grams | NC1=NC=CC=C1C(=O)OC | C7H8N2O2
reactant | calcium carbonate | 0.1 mole, 13.0 grams | C([O-])([O-])=O.[Ca+2]
reactant | methylsulfamoyl chloride | 0.1 mole, 13.0 grams | CNS(=O)(=O)Cl | CH4ClNO2S
solvent | acetonitrile | C(C)#N | C2H3N
product | Methyl 2-(((methylamino)sulfonyl)amino)-3-pyridine carboxylate | CNS(=O)(=O)NC1=NC=CC=C1C(=O)OC | C8H11N3O4S
